US06653471B2
A mixture of 321 mg (1.75 mmol) of (2-dimethoxymethyl-pyridin-3-yl)-methanol and 763 mg (8.77 mmol) of MnO2 in 10 mL of toluene is refluxed for 1.5 hours. The reaction mixture is cooled to room temperature and filtered. The filtrate is evaporated to yield 271 mg of 2-dimethoxymethyl-pyridine-3-carbaldehyde. 1H NMR (CDCl3) δ10.30 (s, 1H), 8.30 (d, 1H), 8.10 (d, 1H), 7.30 (m, 1H), 5.40 (s, 2H), 4.40 (s, 6H).

reactant | (2-dimethoxymethyl-pyridin-3-yl)-methanol | 1.75 mmol, 321 mg | COC(C1=NC=CC=C1CO)OC | C9H13NO3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 8.77 mmol, 763 mg | O=[Mn]=O
product | 2-dimethoxymethyl-pyridine-3-carbaldehyde | 271 mg | COC(C1=NC=CC=C1C=O)OC | C9H11NO3
